US05721185
Lithium t-butylcyclopentadienide
To a solution of 4.18 g (39.4 mmol) 6,6-dimethylfulvene in 80 mL diethylether at 0° C. were added 22.9 mL of a 1.72M (39.4 mmol) methyl lithium solution in ether. The resulting slurry was stirred several days, then filtered, washed with pentane and dried under vacuum.

reactant | 6,6-dimethylfulvene | 39.4 mmol, 4.18 g | CC(=C1C=CC=C1)C | C8H10
reactant | methyl lithium | 39.4 mmol, 1.72M | C[Li]
solvent | diethylether | 80 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | Lithium t-butylcyclopentadienide | C(C)(C)(C)[C-]1C=CC=C1.[Li+] | InChI=1S/C9H13.Li/c1-9(2,3)8-6-4-5-7-8;/h4-7H,1-3H3;/q-1;+1
